US07417157B2
609 g (about 1.94 mol) of crude 8-(4-ethoxy-2,3-difluorophenyl)-1,4-dioxaspiro[4.5]decan-7-ol in 2000 ml of toluene are heated on a water separator for 2 h together with 220 ml (3.93 mol) of ethylene glycol with addition of 36.1 g (0.19 mol) of p-toluenesulfonic acid monohydrate. After cooling, the batch is washed successively with water, sat. sodium hydrogencarbonate solution and sat. sodium chloride solution. The solution is dried using sodium sulfate and concentrated to dryness. The crude product (507 g of orange oil) is crystallised from ethanol at −20° C., giving 8-(4-ethoxy-2,3-difluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene as yellow solid.

reactant | 8-(4-ethoxy-2,3-difluorophenyl)-1,4-dioxaspiro[4.5]decan-7-ol | about 1.94 mol, 609 g | C(C)OC1=C(C(=C(C=C1)C1C(CC2(OCCO2)CC1)O)F)F | C16H20F2O4
reactant | water | O | H2O
reactant | ethylene glycol | 3.93 mol, 220 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.19 mol, 36.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 2000 ml | C1(=CC=CC=C1)C | C7H8
product | 8-(4-ethoxy-2,3-difluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene | C(C)OC1=C(C(=C(C=C1)C1=CCC2(OCCO2)CC1)F)F | C16H18F2O3
